US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-3-[({[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}amino)sulfonyl]benzamide
To a solution of 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine (0.0195 g, 0.0641 mmol) in DCM (0.64 mL) was added 3-{[({3′-[(4-{[(1,1-dimethyl ethyl)oxy]carbonyl}-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)amino]sulfonyl}benzoic acid (0.0374 g, 0.0641 mmol), HBTU (0.0365 g, 0.0962 mmol), Et3N (0.018 mL, 0.128 mmol). The result mixture was stirred at room temperature for 21 h before it was concentrated and purified using a Gilson HPLC (w/TFA). The HPLC fraction was concentrated on a GeneVac EZ-2 evaporator at 45° C. (de-Boc completed during evaporation), basified with an amine cartridge to afford 0.0161 g (33%) of the title compound. LC-MS m/z 769 (M+H)+; 1H-NMR (400 MHz, MeOD) δ ppm 1.41 (t, J=7.30 Hz, 3 H) 1.49 (t, J=7.05 Hz, 3 H) 1.86 (q, J=9.90 Hz, 2 H) 2.09 (d, J=12.34 Hz, 2 H) 3.17 (q, J=7.39 Hz, 2 H) 3.46-3.59 (m, J=12.59 Hz, 8 H) 3.67 (t, J=11.33 Hz, 2 H) 4.04 (d, J=11.83 Hz, 2 H) 4.16 (s, 2 H) 4.30-4.39 (m, 1 H) 4.41 (s, 2 H) 4.48 (q, J=6.88 Hz, 2 H) 4.70 (s, 2 H) 7.04 (t, J=9.44 Hz, 1 H) 7.18-7.27 (m, 1 H) 7.34 (d, J=7.05 Hz, 1 H) 7.50-7.58 (m, 3 H) 7.60-7.68 (m, 2 H) 7.98 (d, J=7.55 Hz, 1 H) 8.08 (d, J=7.81 Hz, 1 H) 8.30 (d, J=13.60 Hz, 2 H).

reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine-4-amine | 0.0641 mmol, 0.0195 g | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
reactant | 3-{[({3′-[(4-{[(1,1-dimethyl ethyl)oxy]carbonyl}-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)amino]sulfonyl}benzoic acid | 0.0641 mmol, 0.0374 g | CC(C)(C)OC(=O)N1CCN(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1F)CNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C30H34FN3O6S
reactant | HBTU | 0.0962 mmol, 0.0365 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.128 mmol, 0.018 mL | CCN(CC)CC | C6H15N
solvent | DCM | 0.64 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-3-[({[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}amino)sulfonyl]benzamide | 0.0161 g, 33% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC(=CC=C2)S(=O)(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CCNCC2)=O)CC | C41H49FN8O4S
